US06369092B1
2-Chlorobenzyl bromide (100 g) is added to an ethanol (750 ml) solution of 4-acetylamino-3-amino-ethylbenzoate (86.0 g) and potassium carbonate (37.3 g), and the solution is stirred for 14 hours at 60° C. Solids are separated through filtration and the filtrate is concentrated under reduced pressure. 35% hydrochloric acid (38.7 g) is added and the solution is stirred for two hours at 60° C. After solids are separated through filtration and the solution is neutralized with sodium bicarbonate, the ethanol is removed through evaporation under reduced pressure. Ethyl acetate and water are added, and extraction is performed (three times). After the organic layer is washed with water and dried, the solvent is removed through evaporation until the organic layer became. Precipitated crystals are separated through filtration and are recrystallized through ethanol. Thus, 1-(2-chlorobenzyl)-6-ethoxycarbonyl-2-methylbenzimidazole (54.3 g ) is obtained. Furthermore, crystals are obtained by collecting and concentrating all filtrates. The crystals are recrystallized with ethanol. Thus, 1-(2-chlorobenzyl)-6-ethoxycarbonyl-2-methylbenzimidazole (18.1 g) is obtained. 1H-NMR (CDCl3, δ): 1.39 (3H, t, J=7.1 Hz), 2.57 (3H, s), 4.37 (2H, q, J=7.1 Hz), 5.46 (2H, s), 6.41 (1H. d, J=7.8 Hz), 7.10 (1H, t, J=7.8 Hz), 7.25 (1H, t), 7.47 (1H, d, J=8.0 Hz), 7.75 (1H, d, J=8.4 Hz), 7.94 (1H, s), 8.00 (1H, d,=1.5 and 8.4 Hz).

reactant | 2-Chlorobenzyl bromide | 100 g | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | 4-acetylamino-3-amino-ethylbenzoate | 86.0 g | C(C)(=O)NC1=C(C(=C(C(=O)[O-])C=C1)CC)N
reactant | potassium carbonate | 37.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 750 ml | C(C)O | C2H6O
product | 1-(2-chlorobenzyl)-6-ethoxycarbonyl-2-methylbenzimidazole | 54.3 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)OCC)C)C=CC=C1 | C18H17ClN2O2
